US04198374
2,2-di(t-butylperoxy) propane
2,2-di(t-butylperoxy) butane or cumyl hydroperoxide.

reactant | 2,2-di(t-butylperoxy) butane | C(C)(C)(C)OOC(C)(CC)OOC(C)(C)C | C12H26O4
reactant | cumyl hydroperoxide | C(C)(C)(C1=CC=CC=C1)OO | C9H12O2
product | 2,2-di(t-butylperoxy) propane | C(C)(C)(C)OOC(C)(C)OOC(C)(C)C | C11H24O4
